US08975254B2
c) 2-(5-Bromofuran-2-yl)-2-phenylsulfanylethylamine
Zinc powder (0.80 g, 0.01224 mol) was added to 2-bromo-5-(2-nitro-1-phenylsulfanylethyl)furan (0.60 g, 0.001828 mol) dissolved in the mixture of glacial acetic acid (24 ml) and concentrated hydrochloric acid (2.4 ml) at 80° C. in nitrogen atmosphere. The mixture was heated at 80° C. for 2.5 h. Then, 0.40 g (0.00612 mol) of zinc powder was added and the mixture was heated for 1 h. The reaction mixture was cooled and 36 ml of water was added. pH was adjusted to 9 by 2.5 M NaOH. The product was extracted into ethyl acetate. The organic phase was washed with water, dried and evaporated. 1H NMR (400 MHz, DMSO-d6): 2.87 (1H, distorted dd), 2.97 (1H, distorted dd), 4.41 (1H, t), 6.21 (1H, d), 6.45 (1H, d), 7.31 (5H, m).

reactant | 2-bromo-5-(2-nitro-1-phenylsulfanylethyl)furan | 0.001828 mol, 0.60 g | BrC=1OC(=CC1)C(C[N+](=O)[O-])SC1=CC=CC=C1 | C12H10BrNO3S
reactant | water | 36 ml | O | H2O
reactant | NaOH | 2.5 M | [OH-].[Na+]
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2.4 ml | Cl | ClH
catalyst | Zinc | 0.01224 mol, 0.80 g | [Zn] | Zn
catalyst | zinc | 0.00612 mol, 0.40 g | [Zn] | Zn
product | 2-(5-Bromofuran-2-yl)-2-phenylsulfanylethylamine | BrC1=CC=C(O1)C(CN)SC1=CC=CC=C1 | C12H12BrNOS
